US07354932B2
A mixture of trans-1-acetoxy-4-azido-2-cyclohexene (6.13 g, 33.9 mmol), Lindlar's catalyst (1.18 g), and di-tert-butyl dicarbonate (11.35 g, 52.1 mmol) in methanol (170 mL) was hydrogenated under atmospheric pressure for 19 hours. The mixture was filtered through Celite® and the cake was washed with methanol. The filtrate was concentrated and the resultant oil was purified by column chromatography on silica gel (6:1 hexanes-ethyl acetate) and provided 6.70 g (77%) of trans-1-acetoxy-4-(tert-butoxycarbonylamino)-2-cyclohexene as a white solid.

reactant | trans-1-acetoxy-4-azido-2-cyclohexene | 33.9 mmol, 6.13 g | C(C)(=O)O[C@@H]1C=C[C@H](CC1)N=[N+]=[N-] | C8H11N3O2
reactant | di-tert-butyl dicarbonate | 52.1 mmol, 11.35 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | Lindlar's catalyst | 1.18 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | methanol | 170 mL | CO | CH4O
product | trans-1-acetoxy-4-(tert-butoxycarbonylamino)-2-cyclohexene | 6.70 g, 77% | C(C)(=O)O[C@@H]1C=C[C@H](CC1)NC(=O)OC(C)(C)C | C13H21NO4
